US05635510
20.10 Synthesis of 4-phenyl-piperidine-4-carboxylic acid amide-hydrochloride
1-tert-Butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid amide (0.95 g, 3.12 mmol) was combined with HCl in dioxane (10 mL, 4N, 40 mmol, 13 eq.) at ambient temperature for 1 h. The solvent was concentrated in vacuo and ethyl acetate was added. The slurry was filtered and dried under high vacuum for 48 h to give the title compound: HPLC analysis Rt =5.56 min. using a C-18 column eluting with a acetonitrile:water (0.1% TFA), flow rate=1.0 mL/min., gradient (elution with CH3CN/H2O(0.1%TFA) 10% CH3CN for 10 minutes, 30% CH3CN for 15 minutes, 40% CH3CN for 15 minutes, 50% CH3CN for 10 minutes, and then 100% CH3CN). Analysis: calculated for Cl2H17C1N2O C 59.87; H 7.12; N 11.64; Found C 59.82; H 7.00; N 11.52.

reactant | 1-tert-Butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid amide | 3.12 mmol, 0.95 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C17H24N2O3
reactant | HCl | Cl | ClH
reactant | dioxane | 40 mmol, 4N, 10 mL, 13 eq. | O1CCOCC1 | C4H8O2
product | 4-phenyl-piperidine-4-carboxylic acid amide-hydrochloride | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N | InChI=1S/C12H16N2O.ClH/c13-11(15)12(6-8-14-9-7-12)10-4-2-1-3-5-10;/h1-5,14H,6-9H2,(H2,13,15);1H
